US08614226B2
To a slurry of 970 mg (3.42 mmol) 2-(4-chloro-[1,8]naphthyridin-2-yl)-benzamide in 10 ml dichloromethane 2.85 g (12.0 mmol) 1.26 g (5.27 mmol) methoxycarbonylsulfamoyl-triethylammonium hydroxide, inner salt, (Burgess reagent) was added. The reaction mixture was stirred for 4 hours at room temperature. The reaction mixture was partitioned between water and dichloromethane. The organic phase was dried over sodium sulfate and evaporated. The residue was crystallized from isopropanol yielding 2-(4-chloro-[1,8]naphthyridin-2-yl)-benzonitrile as colourless crystals; HPLC-MS: 1.94 min, [M+H] 266.

reactant | 2-(4-chloro-[1,8]naphthyridin-2-yl)-benzamide | 3.42 mmol, 970 mg | ClC1=CC(=NC2=NC=CC=C12)C1=C(C(=O)N)C=CC=C1 | C15H10ClN3O
reactant | dichloromethane | 12.0 mmol, 10 ml, 2.85 g | ClCCl | CH2Cl2
reactant | Burgess reagent | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
product | 2-(4-chloro-[1,8]naphthyridin-2-yl)-benzonitrile | ClC1=CC(=NC2=NC=CC=C12)C1=C(C#N)C=CC=C1 | C15H8ClN3
